US07741242B2
A 12.5 ml of decane solution of 5 to 6 mol/L of per-tert-butylalcohol is diluted with 50 ml of methylene chloride, then 111 mg of selenium dioxide and 90.1 mg of an acetic acid were added thereto to react while stirring at room temperature for 30 min. Then, 6.5 ml of 2-phenylpropene was added to the reaction solution to react while stirring for 72 hours, followed by condensation under reduced pressure, and purification by silica gel column chromatography to obtain 3.98 g of 3-hydroxy-2-phenylpropene (yield: 59%). Measurement results by 1H-NMR and 13C-NMR of 3-hydroxy-2-phenylpropene obtained are shown below.

reactant | decane | 12.5 ml | CCCCCCCCCC | C10H22
reactant | tert-butylalcohol | C(C)(C)(C)O | C4H10O
reactant | selenium dioxide | 111 mg | [Se](=O)=O | O2Se
reactant | 2-phenylpropene | 6.5 ml | C1(=CC=CC=C1)C(=C)C | C9H10
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 90.1 mg | C(C)(=O)O | C2H4O2
product | 3-hydroxy-2-phenylpropene | 3.98 g, yield: 59% | OCC(=C)C1=CC=CC=C1 | C9H10O
